US08207167B2
tert-Butyl 1-(3-aminophenyl)-2-(tert-butyldimethylsilyloxy)ethyl(2-methoxyethyl)carbamate
{3-[1-[tert-Butoxycarbonyl-(2-methoxy-ethyl)-amino]-2-(tert-butyl-dimethyl-silanyloxy)ethyl]-phenyl}-carbamic acid benzyl ester was added to ethanolic HCl (20 mL) at 0° C., allowed to warm to room temperature and stirred overnight. The reaction mixture was concentrated to give the title compound as a light yellow oil (300 mg).

reactant | {3-[1-[tert-Butoxycarbonyl-(2-methoxy-ethyl)-amino]-2-(tert-butyl-dimethyl-silanyloxy)ethyl]-phenyl}-carbamic acid benzyl ester | C(C1=CC=CC=C1)OC(NC1=CC(=CC=C1)C(CO[Si](C)(C)C(C)(C)C)N(CCOC)C(=O)OC(C)(C)C)=O | C30H46N2O6Si
solvent | HCl | 20 mL | Cl | ClH
product | tert-Butyl 1-(3-aminophenyl)-2-(tert-butyldimethylsilyloxy)ethyl(2-methoxyethyl)carbamate | 300 mg | NC=1C=C(C=CC1)C(CO[Si](C)(C)C(C)(C)C)N(C(OC(C)(C)C)=O)CCOC | C22H40N2O4Si
